US05686486
Ethyl 2-(4-Phenylbutanoyl)salicylate (Formula A-2) Refer to Chart A
To a stirred solution of 1.00 g of 4-phenylbutyric acid and 60 mg of N,N-dimethylaminopyridine in 20 ml of dichloromethane is added 0.75 ml of ethyl salicylate, followed by 0.95 ml of diisopropyl carbodiimide. After 18 hours, the mixture is concentrated under reduced pressure, and the residue triturated with ether. The organic phase is washed with aq. sodium bicarbonate and brine, dried (magnesium sulfate), and concentrated under reduced pressure. Flash chromatography on silica with 10% ethyl acetate in hexane affords 1.61 g of the title product as a colorless oil.

reactant | 4-phenylbutyric acid | 1.00 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | ethyl salicylate | 0.75 ml | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
reactant | diisopropyl carbodiimide | 0.95 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Ethyl 2-(4-Phenylbutanoyl)salicylate | 1.61 g | C1(=CC=CC=C1)CCCC(=O)C1(C(C(=O)OCC)C=CC=C1)O | C19H22O4
